US09382243B2
Step B. (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-4-yl)propanoate
Placed (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(((perfluorobutyl)sulfonyl)oxy)phenyl)propanoate (800 mg, 1.385 mmol), 1,4-benzenediboronic acid bis(pinacol) ester (1372 mg, 4.16 mmol), palladium acetate (16 mg, 0.071 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (57 mg, 0.139 mmol), and tribasic potassium phosphate (882 mg, 4.16 mmol) under nitrogen in nitrogen flushed toluene (2.0 mL) and water (0.1 mL). The mixture was stirred at 100° C. for 1 hour, then cooled to room temperature and poured into saturated aqueous sodium bicarbonate (30 mL). The mixture was extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The resultant residue was chromatographed using a Biotage™ 50 g silica gel cartridge eluted with 0-10% methanol in DCM over 20 column volumes. The product fractions were collected and concentrated under reduced pressure. Further purification of the resultant white solid was performed by chromatography using a Biotage™ 25 g silica gel cartridge eluted with 0-20% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The product fractions were combined, concentrated under reduced pressure, redissolved in MeCN and water, frozen at −78° C., and lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C27H36BNO6 481.26, observed m/e: 482.33 (M+H)+ (Rt 2.65/4 min).

reactant | (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(((perfluorobutyl)sulfonyl)oxy)phenyl)propanoate | 1.385 mmol, 800 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C19H20F9NO7S
reactant | 1,4-benzenediboronic acid bis(pinacol) ester | 4.16 mmol, 1372 mg | B1(OC(C(O1)(C)C)(C)C)C2=CC=C(C=C2)B3OC(C(O3)(C)C)(C)C | C18H28B2O4
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.139 mmol, 57 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 4.16 mmol, 882 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.071 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-4-yl)propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C27H36BNO6
